US06326386B1
(2-{3-Chloro-5-[(2-cyano-ethyl)-(tetrahydro-furan-2-ylmethyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.060 g), TBTU (0.096 g) and HOBT (0.030 g) in DMF (1 ml) was added DIPEA (0.052 ml) followed by 3-[(tetrahydro-furan-2-ylmethyl)-amino]-propionitrile (0.047 g) after 15 min. The reaction was stirred at room temperature for 96 h, and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.078 g) was obtained as a brown oil by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.060 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | TBTU | 0.096 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 0.030 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[(tetrahydro-furan-2-ylmethyl)-amino]-propionitrile | 0.047 g | O1C(CCC1)CNCCC#N | C8H14N2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (2-{3-Chloro-5-[(2-cyano-ethyl)-(tetrahydro-furan-2-ylmethyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.078 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CC1OCCC1)CCC#N)=O)Cl)=O | C27H33ClN4O5
